US06133260
B) 8-Cyano-1-cyclopropyl-6-fluoro-7-((1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]non-8-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic Acid Hydrochloride
200 mg (0.63 mmol) of ethyl 8-cyano-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate are stirred under argon at 40-45° C. for 2 hours with 97 mg (0.75 mmol) of (1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]nonane and 0.17 ml of triethylamine in 3 ml of acetonitrile. All volatile components are removed in vacuo, the residue is treated with water, insoluble material is filtered off and the filtrate is extracted with dichloromethane. The organic phase is dried over sodium sulphate and then concentrated in vacuo. The resulting residue is dissolved in 6 ml of tetrahydrofuran and 2 ml of water and treated with 30 mg (0.72 mmol) of lithium hydroxide monohydrate. After stirring at room temperature for 16 hours, (he mixture is acidified with dil. hydrochloric acid and the resulting precipitate is filtered off with suction and dried.

reactant | ethyl 8-cyano-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.63 mmol, 200 mg | C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)OCC)=O)F)F | C16H12F2N2O3
reactant | (1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]nonane | 0.75 mmol, 97 mg | [C@H]12OCCN[C@H]2CNC1 | C6H12N2O
reactant | lithium hydroxide monohydrate | 0.72 mmol, 30 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | water | 2 ml | O | H2O
solvent | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
product | 8-Cyano-1-cyclopropyl-6-fluoro-7-((1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]non-8-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic Acid Hydrochloride | Cl.C(#N)C=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)O)=O)F)N1C[C@@H]2NCCO[C@H]2C1 | InChI=1S/C20H19FN4O4.ClH/c21-14-5-11-17(25(10-1-2-10)7-13(19(11)26)20(27)28)12(6-22)18(14)24-8-15-16(9-24)29-4-3-23-15;/h5,7,10,15-16,23H,1-4,8-9H2,(H,27,28);1H/t15-,16-;/m0./s1
